US07598240B2
After 4-(4-methoxyphenyl)butanoic acid (200 g) and then concentrated sulfuric acid (4 ml) were added to ethanol (400 ml), the resulting mixture was heated under reflux for 1 hour. About one-half of the solvent was distilled off under reduced pressure, and the residual reaction solution was poured into a saturated aqueous sodium hydrogencarbonate solution and extracted with ethyl acetate (1 L). The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure to obtain ethyl 4-(4-methoxyphenyl)butanoate quantitatively.

reactant | 4-(4-methoxyphenyl)butanoic acid | 200 g | COC1=CC=C(C=C1)CCCC(=O)O | C11H14O3
reactant | sulfuric acid | 4 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 400 ml | C(C)O | C2H6O
product | ethyl 4-(4-methoxyphenyl)butanoate | COC1=CC=C(C=C1)CCCC(=O)OCC | C13H18O3
